*********************************************************************
*  (C)  Copyright  TOSHIBA CORPORATION  2014
*  Date                 : 15/12/2014
*  File name            : SSM3K15AFU.lib
*  Part Number          : SSM3K15AFU
*  Parameter ver.       : Ver.1
*  Simulator            : PSPICE
*  Model call name      : NMOS_SSM3K15AFU
*  TNOM                 : 25 degree
*  Pin Assign           : 1=Drain 2=Gate 3=Source
*********************************************************************
.SUBCKT NMOS_SSM3K15AFU 1 2 3
M0 1 22 3 3
+ smsmosfet
+ L = 5E-006
+ W = 0.008
+ AD = 8e-09
+ AS = 8e-09
+ PD = 0.016
+ PS = 0.016
D0 3 1
+ DDS1
D1 3 1
+ DDS2
D2 2 10
+ DGS1
D3 3 10
+ DGS2
R1 10 3 1E+009
R2 10 2 1E+009
RG 2 22 200
.MODEL smsmosfet NMOS
+ LEVEL = 7
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 1.5E-008
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = 1.2076
+ VOFF = -0.02
+ NFACTOR = 3.583
+ U0 = 952.2693
+ K1 = 0.5
+ K2 = 0
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 4.436e-13
+ UB = 5.87E-019
+ UC = -4.65E-011
+ VSAT = 112118.3748
+ A0 = 1.2732
+ AGS = 0.029771
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.02079
+ RDSW = 8680
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 0.00024
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.08
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 0.0014469
+ PDIBLC1 = 0.39
+ PDIBLC2 = 0.012118
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+008
+ PSCBE2 = 1E-009
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 1.6481e-14
+ XPART = 0
+ CGSO = 1.9718e-10
+ CGDO = 3.5042e-10
+ CGBO = 0
+ CGDL = 1.5468e-08
+ CGSL = 2.4386e-12
+ CKAPPA = 2.9066
+ CF = 0
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 3.2319e-06
+ CJSW = 1E-012
+ CJSWG = 1E-012
+ PB = 0.40048
+ PBSW = 1
+ PBSWG = 1
+ MJ = 1.7065
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -0.5
+ KT1 = -0.665
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 4.31E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 3300
+ PRT = 15000
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 0.0035277
.MODEL DDS1 D
+ TNOM = 25
+ IS = 8.8013e-14
+ RS = 1.1503
+ N = 1.15
+ CJO = 1.5691e-15
+ VJ = 0.85666
+ M = 0.54386
+ XTI = 3
+ BV = 30
+ IBV = 0.0001
.MODEL DDS2 D
+ TNOM = 25
+ IS = 8.8013e-14
+ RS = 1.1503
+ N = 1.15
+ CJO = 2.9872e-12
+ VJ = 0.69573
+ M = 0.36689
+ XTI = 3
.MODEL DGS1 D
+ TNOM = 25
+ IS = 1E-015
.MODEL DGS2 D
+ TNOM = 25
+ IS = 1E-015
.ENDS
