*---------- DMN1019UFDE Spice Model ----------
.SUBCKT DMN1019UFDE 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.003695 
RS 30 3 0.001 
RG 20 2 1.12 
DESD1 2 5 DESD 
DESD2 3 5 DESD 
CGS 2 3 2.085E-009 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 3.8E-009 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 8E+005 ETA = 0.001248 VTO = 0.9106 
+ TOX = 6E-008 NSUB = 1E+016 KP = 208.4 U0 = 400 KAPPA = 94.25 
.MODEL DCGD D CJO = 1.867E-009 VJ = 0.2465 M = 0.4333 
.MODEL DSUB D IS = 2.007E-009 N = 1.095 RS = 0.01324 
+ BV = 20 CJO = 5.112E-012 VJ = 6.535E-009 M = 0.00671 
.MODEL DLIM D IS = 0.0001 
.MODEL DESD D IS = 1.223E-008 N = 54.81 BV = 5.381 
.ENDS
*Diodes DMN1019UFDE Spice Model v1.0 Last Revised 2014/4/03